US04870074
Preparation of 2-aminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine
A mixture of 2-acetylaminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine (3.3 g) and 10% aqueous sodium hydroxide solution (60 ml) is refluxed with stirring for 20 hours. The reaction mixture is extracted with chloroform, and the organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. Removal of the solvent under reduced pressure gives the title compound as an oil.

reactant | 2-acetylaminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine | 3.3 g | C(C)(=O)NCC1CN(CCO1)CCCOC1=CC=C(C=C1)Cl | C16H23ClN2O3
solvent | sodium hydroxide | 60 ml | [OH-].[Na+]
product | 2-aminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine | NCC1CN(CCO1)CCCOC1=CC=C(C=C1)Cl | C14H21ClN2O2
